US07601743B2
Preparation of 2-Amino-N-bicyclopropyl-1-yl-5-cyano-3-methyl-benzamide
236 mg (1.16 mmol) 8-methyl-2,4-dioxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-carbonitrile, 234 mg (1.75 mmol) bicyclopropyl-1-ylamine hydrochloride and 177 mg (1.75 mmol) triethylamine in 25 ml THF are heated 4 h at reflux. The mixture is cooled down and evaporated. The residue is dissolved in ethyl acetate and extracted with water. After purification on a short path of silicagel, 63 mg of the title compound are isolated as yellow crystals. F: 171-172° C.

reactant | 8-methyl-2,4-dioxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-carbonitrile | 1.16 mmol, 236 mg | CC1=CC(=CC2=C1NC(OC2=O)=O)C#N | C10H6N2O3
reactant | bicyclopropyl-1-ylamine hydrochloride | 1.75 mmol, 234 mg | Cl.C1(CC1)(C1CC1)N
reactant | triethylamine | 1.75 mmol, 177 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-Amino-N-bicyclopropyl-1-yl-5-cyano-3-methyl-benzamide | NC1=C(C(=O)NC2(CC2)C2CC2)C=C(C=C1C)C#N | C15H17N3O
